US08222219B2
A solution of 1-phenyl-4-bromopyrazole (see M. A. Khan, et al., Can. J. Chem., (1963) 41 1540) (2.23 g) in diethyl ether (30 ml) wad cooled to −78° C. under argon atmosphere, and added dropwise thereto was n-butyl lithium (1.59 M hexane solution, 6.9 ml). The mixture was stirred at −20° C. to −10° C. for 5 hours, and added dropwise thereto at the same temperature was a solution of 5-bromo-2-chlorobenzaldehyde (2.19 g) obtained in Reference Example 16-(1) in diethyl ether (30 ml). The mixture was stirred at the same temperature for 30 minutes, and added thereto was tetrahydrofuran (30 ml), and the mixture was stirred at 0° C. for further 30 minutes. A saturated aqueous ammonium chloride solution was added thereto, and the mixture was extracted with ethyl acetate. The extract was washed with brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=83:17-80:20) to give 5-bromo-2-chlorophenyl-1-phenyl-4-pyrazolylmethanol (831 mg) as yellow oil. APCI-Mass m/Z 363/365 (M+H). (2) The above 5-bromo-2-chlorophenyl-1-phenyl-4-pyrazolylmethanol was treated in a manner similar to Reference Example 120-(2) to give the desired 5-bromo-2-chloro-1-(1-phenyl-4-pyrazolylmethyl)benzene as colorless powder. APCI-Mass m/Z 347/349 (M+H).

reactant | 1-phenyl-4-bromopyrazole | C1(=CC=CC=C1)N1N=CC(=C1)Br | C9H7BrN2
reactant | n-butyl lithium | 1.59 M, 6.9 ml | C(CCC)[Li]
reactant | 5-bromo-2-chlorobenzaldehyde | 2.19 g | BrC=1C=CC(=C(C=O)C1)Cl | C7H4BrClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-bromo-2-chlorophenyl-1-phenyl-4-pyrazolylmethanol | 831 mg | BrC=1C=CC(=C(C1)C(O)C=1C=NN(C1)C1=CC=CC=C1)Cl | C16H12BrClN2O
